US05804588
2-Ethyl-8-methoxyquinoline
n-Butyllithium (1 ml, 1.6M in hexanes) was added dropwise to a stirred solution of 8-methoxy-2-methylquinoline (0.25 g) in tetrahydrofuran (4 ml) at -60° C. under an inert atmosphere. The resulting red solution was stirred at -60° C. for 15 minutes, and then warmed to -40° C. Iodomethane (0.27 ml) was then added dropwise and the reaction warmed slowly to room temperature with continued stirring for 12 hours. The reaction was quenched with brine (50 ml) and extracted with dichloromethane (2×5ml). The organic phases were combined, dried over magnesium sulphate and preadsorbed onto silica. Purification was achieved by column chromatography eluting with ethyl acetate to afford the title compound as a pale yellow solid (0.16 g).

reactant | n-Butyllithium | 1.6M, 1 ml | C(CCC)[Li]
reactant | 8-methoxy-2-methylquinoline | 0.25 g | COC=1C=CC=C2C=CC(=NC12)C | C11H11NO
reactant | Iodomethane | 0.27 ml | IC | CH3I
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
product | 2-Ethyl-8-methoxyquinoline | 0.16 g | C(C)C1=NC2=C(C=CC=C2C=C1)OC | C12H13NO
